### PR TITLE
Willard's equations force sethood

### PR DESCRIPTION
**Pull request by jakub-oprsal**
This PR contains sketches of proofs of my claim that Willard's equations force a type to be a set generalising both the semilattice and majority cases that are already here.

The full proof requires more work to code, and I haven't even written down the plain English version yet, so I suggest postponing the merge until it's done.

The content is three files:

- `gist.WillardsEquations` which shows the simplest case, but also all the key
  general ideas.
- `gist.TaylorsLemma` which shows that under weaker conditions loops commute. Again, I am presenting only one example *weak near-unanimity* to demonstrate how a general proof could work.
- `gist.CommutativeLoopSpacesMaltsev` which shows commutativity of loops starting with a Maltsev operation. This might be actually covered elsewhere here, or possibly it is a relatively easy consequence of something.

### CODE REVIEW

**Comment by jakub-oprsal** [comment]
> After speaking to you yesterday in person, I would like to have this merged to TypeTopology. It may take a while to put in writing the more general ideas you have developed, and, for the moment, it would be very good to have the gist of it in TypeTopology. If you agree, I will merge this.

I have noticed your comment only now, sorry. If you think it makes sense to merge now, let me clean up the code, and add a few more comments first. Maybe this is also a good oportunity to create a folder for this, and move all files there?

**Comment by jakub-oprsal** [comment]
I think it's ready for review now.

I have removed a few files with some very rough sketches. I'll keep working on coding the general case, but these delted files are obsolete anyway.

**Comment by martinescardo** [comment]
Thanks! I will try to catch up with this asap. But notice I am away at a conference starting today until the end of the week.

**Comment by martinescardo** [comment]
@tomdjong could you also look at this in due course. I know, you are away at a conference too, in fact that the same one.

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda [hunk 1]
```diff
@@ -0,0 +1,329 @@
+Jakub Opršal, 24 March 2026.
+
+My goal here is to sketch key ideas of the proof that a type with a bunch of
+ternary operations satisfying certain equations, known in universal algebra as
+WSection illard equations [1, see §2], is necessarily a set.
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda]: Typo.

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda [hunk 2]
```diff
@@ -0,0 +1,329 @@
...
+
+[1] Ross Willard. A Finite Basis Theorem For Residually Finite, Congruence
+    Meet-semidistributive Varieties. J. of Symb. Logic 65(1):187-200, 2000.
+    https://doi.org/10.2307/2586531.
+[2] Walter Taylor. Varieties obeying homotopy laws. Can. J. Math., XXIX(3):
+    498–527, 1977. https://doi.org/10.4153/CJM-1977-054-9.
+[3] Jakub Opršal, AlgebraicStructuresForcingSethood.WeakNearUnanimity, March
+    2026.
+
+We start with some library for ternary idempotent functions.
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda:44]: Eventually (not necessarily now), we should probably stop (re)including basic libraries and just use (parts of) `UF.Base` (e.g. with `using` if we aim for minimality).

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda [hunk 3]
```diff
@@ -0,0 +1,329 @@
...
+    III = ap (λ x →  eq-cong (idem a) (idem a) (ap₃ f p refl x)) (refl∙ p)
+
+\end{code}
+
+Next, we build a framework for lifting equations to the action on loops. To be
+able to do this, we will need that loops commute.
+
+\begin{code}
+
+module equation^ (A : Type)
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda]: Maybe rename `equation^` to something like `lifting-equations`?

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda [hunk 4]
```diff
@@ -0,0 +1,329 @@
...
+                 (s t    : A → A → A → A)
+                 (idem-s : (x : A) → s x x x ＝ x)
+                 (idem-t : (x : A) → t x x x ＝ x)
+                 (loops-commute : {a : A} (p q : a ＝ a) → p ∙ q ＝ q ∙ p)
+                 where
+
+ open ternary-idempotent A s idem-s renaming (Ωf to Ωs)
+ open ternary-idempotent A t idem-t renaming (Ωf to Ωt)
+
+ conjugation-triv : {a : A} (g : a ＝ a) (p : a ＝ a)
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda]: Maybe this one and `one-eq-cong` should be moved up, directly after the "minimal library"?

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda [hunk 5]
```diff
@@ -0,0 +1,329 @@
...
+      → Ωs p p q ＝ Ωt p p q
+ Ωeq₃ eq {a} p q = one-eq-cong _ _ (eq a a) (idem-s a) (idem-t a) (eq^ p q)
+  where
+   eq^ : {a a' b b' : A} (p : a ＝ a') (q : b ＝ b')
+        → eq-cong (eq a b) (eq a' b') (ap₃ s p p q) ＝ ap₃ t p p q
+   eq^ refl refl = eq-cong-refl (eq _ _)
+
+\end{code}
+
+Now, we can properly work with Willard's equations. I write down the simplest
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda:202]: Could you introduce / give an example of Willard's questions as a comment at the top of this file?

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda [hunk 6]
```diff
@@ -0,0 +1,329 @@
...
+      Ωs p refl refl ∙ Ωs refl refl p ＝⟨ triangle-s p ⟩
+      Ωs p refl p                     ＝⟨ Ωst₁ p refl ⟩
+      Ωt p refl p                     ＝⟨ sym (triangle-t p) ⟩
+      Ωt p refl refl ∙ Ωt refl refl p ＝⟨ ap (λ x → x ∙ Ωt refl refl p)
+                                             (sym (Ωst₀ p refl)) ⟩
+      Ωs p refl refl ∙ Ωt refl refl p ∎
+
+\end{code}
+
+
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda]: Duplicate newline.

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda [hunk 7]
```diff
@@ -0,0 +1,329 @@
...
+The core idea is to create one term `taylor` (in this case of arity 3 * 3 = 9),
+such that
+
+ taylor x x x y y y z z z = s x y z
+ taylor x y z x y z x y z = t x y z
+
+and then show that this term satisfies enough identities to be considered a
+Taylor term, and hence imply that loops commute.
+
+\begin{code}
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda:297]: (Minor) Maybe these should be in a `private` block?

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 8]
```diff
@@ -0,0 +1,497 @@
+Jakub Opršal, 15–24 March 2026.
+
+In this file, I want to explore another of Taylor's results from [1]. Namely,
+the following lemma.
+
+LEMMA (Taylor, 1977).
+  Let X be a topological space with an n-ary operation t satysfying a
+  non-trivial idempotent Maltsev condition, then π₁(X, x₀) is Abelian for all
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: abelian(?)

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 9]
```diff
@@ -0,0 +1,497 @@
...
+  x₀ ∈ X.
+
+This file explores a ternary case of Taylor's operation that is sufficiently
+general that simplifications, like those for majority and Maltsev operations,
+would not apply here.
+
+The equations are called *ternary weak near-unanimity*. Briefly, they can be
+described as similar to majority, except that the three substitutions do not
+necesarily return a projection, but just a same value depending on both x and
+y, i.e.,
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: Bad break

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 10]
```diff
@@ -0,0 +1,497 @@
...
+
+  w (x, x, y) = w (x, y, x) = w(y, x, x)
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: Missing space after `w`.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 11]
```diff
@@ -0,0 +1,497 @@
...
+
+It should be also noted that [2] contains a simple special case of Taylor's
+equation, namely the binary case.
+
+The proof here follows roughly the line that we outlined in [Lemma 2.12, 3],
+although I need to prove that certain 'subgrupoids' are normal, which is not
+necessary in the case of topological algebras with strictly idempotent
+operations. Curiosly, this fact was noted in Taylor's original paper [1].
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: Could you give a more precise reference to a place in [1]?

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 12]
```diff
@@ -0,0 +1,497 @@
...
+Let us start setting up basic tools for working with paths.
+
+\begin{code}
+
+{-# OPTIONS --safe --without-K #-}
+module AlgebraicStructuresForcingSethood.WeakNearUnanimity where
+
+open import MLTT.Spartan
+
+sym : {A : Type} {a b : A} → (a ＝ b) → (b ＝ a)
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda:49]: This confirms my view that we should (eventually) stop this code duplication.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 13]
```diff
@@ -0,0 +1,497 @@
...
+rectangle like this:
+
+  f a a ==idem== a ==idem== f a a
+    |            |            |
+    q      =>    q'         f q' q'
+    |            |            |
+  f a a ==idem== a ==idem== f a a
+
+where q' is chosen so that the left square commutes. The required equality
+`q = ap f q' q'` follows from the fact that top and bottom simplifies to refl.
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: simplify

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 14]
```diff
@@ -0,0 +1,497 @@
...
+       where
+
+ idem^ : {a b : A}
+       → (p : a ＝ b)
+       → eq-cong (idem a) (idem b) (ap₃ f p p p) ＝ p
+ idem^ refl = eq-cong-refl (idem _)
+
+ ap₃-onto : {a : A}
+          → (p : f a a a ＝ f a a a)
+          → Σ λ p' → ap₃ f p' p' p' ＝ p
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: We prefer to write `Σ λ p' → ap₃ f p' p' p' ＝ p` as `Σ p' ꞉ a ＝ a , ap₃ fp' p' p' ＝ p`.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 15]
```diff
@@ -0,0 +1,497 @@
...
+ ap₃-onto {a} p = p' , hp
+  where
+   p' = eq-cong (idem a) (idem a) p
+   hp = eq-cong-cancel (idem a) (idem a) (idem^ p')
+
+\end{code}
+
+Now, we get to the fun part! The key idea is that for any binary operation f,
+elements of the form `ap f p refl` and `ap f refl q` commute. We apply this for
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: for = to (?)

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 16]
```diff
@@ -0,0 +1,497 @@
...
+\begin{code}
+
+module ternary-wnu (A    : Type)
+                   (w    : A → A → A → A)
+                   (idem : (a : A) → w a a a ＝ a)
+                   (wnu₁ : (a b : A) → w a a b ＝ w b a a)
+                   (wnu₂ : (a b : A) → w a a b ＝ w a b a)
+                   where
+
+ w^ : {a : A} → a ＝ a → a ＝ a → a ＝ a → w a a a ＝ w a a a
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: I'm not a huge fan of the `^` syntax. Could you find something more descriptive maybe? (Here and elsewhere.)

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 17]
```diff
@@ -0,0 +1,497 @@
...
+       → (p : a ＝ a') (q : b ＝ b')
+       → ap₃ w p p q ∙ wnu₁ a' b' ＝ wnu₁ a b ∙ ap₃ w q p p
+ wnu₁^ {a = a} {b = b} refl refl = refl∙ (wnu₁ a b)
+
+ wnu₂^ : {a a' b b' : A} (p : a ＝ b) (p' : a' ＝ b')
+       →  ap₃ w p p' p ＝ eq-cong (wnu₂ a a') (wnu₂ b b') (ap₃ w p p p')
+ wnu₂^ refl refl = sym (eq-cong-refl (wnu₂ _ _))
+
+ reduce₁ : {a : A} (q : a ＝ a)
+         → Σ λ q' → Σ λ q'' → w^ q q q ＝ w^ refl q' q''
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: Please use the notation for Sigma-types that I described earlier.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 18]
```diff
@@ -0,0 +1,497 @@
...
+    q'  = pr₁ (reduce₁ q)
+    q'' = pr₁ (pr₂ (reduce₁ q))
+    he : w^ q q q ＝ w^ refl q' q''
+    he  = pr₂ (pr₂ (reduce₁ q))
+
+    I = ap (λ x → w^ p refl refl ∙ x) he
+    II = sym (ap (λ x → x ∙ w^ p refl refl) he)
+
+ reduce₂ : {a : A} (q : a ＝ a)
+         → Σ λ q' → Σ λ q'' → ap₃ w q q q ＝ ap₃ w q' refl q''
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: See earlier comment on Sigma-type syntax.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 19]
```diff
@@ -0,0 +1,497 @@
...
+    ap₃ w q refl q ∙ ap₃ w refl refl (eq-cong e e q)  ＝⟨ III ⟩
+    ap₃ w q refl q'' ∎
+     where
+      I = ap₃-homo' w q refl refl q q refl refl (sym (refl∙ q)) refl
+      II = ap (λ x → ap₃ w q refl q ∙ x) use-wnu₂
+      III = sym (ap₃-homo' w q refl refl refl q (eq-cong e e q) refl refl refl)
+
+ commutes₂ : {a : A}
+           → (p q : a ＝ a)
+           → (w^ refl p refl ∙ w^ q q q ＝ w^ q q q ∙ w^ refl p refl)
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: You don't need the outer parentheses.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 20]
```diff
@@ -0,0 +1,497 @@
...
+ commutes₂ {a} p q =
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: I don't think you need `{a}`.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 21]
```diff
@@ -0,0 +1,497 @@
...
+    ap₃ w (eq-cong e e q) (q ∙ (eq-cong e e q)) refl ∎
+     where
+      I = ap₃-homo' w refl q q refl refl q (sym (refl∙ q)) refl (sym (refl∙ q))
+      II = ap (λ x → ap₃ w refl q refl ∙ x) use-wnu₂'
+      III = sym (ap₃-homo' w refl (eq-cong e e q) q (eq-cong e e q) refl refl
+                             (sym (refl∙ (eq-cong e e q))) refl refl)
+
+ commutes₃ : {a : A}
+           → (p q : a ＝ a)
+           → (w^ refl refl p ∙ w^ q q q ＝ w^ q q q ∙ w^ refl refl p)
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: You don't need the outer parentheses.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 22]
```diff
@@ -0,0 +1,497 @@
...
+
+ ap₃-homo-w^ : {a : A} {p q r : a ＝ a} {p' q' r' p'' q'' r'' : a ＝ a}
+               (p^ : p ＝ p' ∙ p'') (q^ : q ＝ q' ∙ q'') (r^ : r ＝ r' ∙ r'')
+             → w^ p q r ＝ w^ p' q' r' ∙ w^ p'' q'' r''
+ ap₃-homo-w^ {a} {p} {q} {r} {p'} {q'} {r'} {p''} {q''} {r''} p^ q^ r^ =
+  w^ p q r                            ＝⟨ ap₃ w^ p^ q^ r^ ⟩
+  w^ (p' ∙ p'') (q' ∙ q'') (r' ∙ r'') ＝⟨ sym (ap₃-homo w p' p'' q' q'' r' r'') ⟩
+  w^ p' q' r' ∙ w^ p'' q'' r''        ∎
+
+ pre-lemma : {a : A}
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: Can we find a better name?

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 23]
```diff
@@ -0,0 +1,497 @@
...
+  w^ refl p p ∙ w^ q q q ∙ w^ p refl refl                           ＝⟨ III ⟩
+  w^ refl refl p ∙ w^ refl p refl ∙ w^ q q q ∙ w^ p refl refl       ＝⟨ IVa ⟩
+  w^ refl refl p ∙ (w^ refl p refl ∙ w^ q q q) ∙ w^ p refl refl     ＝⟨ IVb ⟩
+  w^ refl refl p ∙ (w^ q q q ∙ w^ refl p refl) ∙ w^ p refl refl     ＝⟨ IVc ⟩
+  w^ refl refl p ∙ w^ q q q ∙ w^ refl p refl ∙ w^ p refl refl       ＝⟨ Va ⟩
+  w^ refl refl p ∙ w^ q q q ∙ (w^ refl p refl ∙ w^ p refl refl)     ＝⟨ Vb ⟩
+  w^ refl refl p ∙ w^ q q q ∙ w^ p p refl                           ＝⟨ VI ⟩
+  w^ q q q ∙ w^ refl refl p ∙ w^ p p refl                           ＝⟨ VII ⟩
+  w^ q q q ∙ (w^ refl refl p ∙ w^ p p refl)                         ＝⟨ sym VIII ⟩
+  w^ q q q ∙ w^ p p p ∎
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: Please align the square with the equality signs.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda [hunk 24]
```diff
@@ -0,0 +1,497 @@
...
+  eq-cong (idem a) (idem a) (w^ q q q ∙ w^ p p p) ＝⟨ dissolve q p ⟩
+  q ∙ p                                           ∎
+   where
+    dissolve : (p' q' : a ＝ a)
+             → eq-cong (idem a) (idem a) (w^ p' p' p' ∙ w^ q' q' q') ＝ p' ∙ q'
+    dissolve p' q' = eq-cong-∙ {q = idem a} {q' = idem a} {q'' = idem a}
+                               (w^ p' p' p') (w^ q' q' q')
+                   ∙ ap₂ _∙_ (Ωw-idem p') (Ωw-idem q')
+
+    apply-pre-lemma = ap (λ x → eq-cong (idem a) (idem a) x) (pre-lemma p q)
```
Comment (tomdjong) [inline source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: We usually use `-` (instead of `x`) for the variable in `ap` (or `transport`) functions.
Here, just `eq-cong (idem a) (idem a)` would work actually.

**Review by tomdjong — COMMENTED** [review]
Thanks @jakub-oprsal! Here's a review with some (minor) comments.

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda (hunk 2 above)
Comment (jakub-oprsal) [reply source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda:44]: Ok, I will have to study UF.Base in that case.

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda (hunk 3 above)
Comment (jakub-oprsal) [reply source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda]: Renamed to `list-equation`, I am lifting just one.

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda (hunk 4 above)
Comment (jakub-oprsal) [reply source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda]: It assumes that the loops commute. But I think I can move this out adding the assumption. What to call a type with commuting loops though? For now, I went with `abelian-type`. Do you have a better suggestion?

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda (hunk 5 above)
Comment (jakub-oprsal) [reply source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda:202]: Done.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda (hunk 24 above)
Comment (jakub-oprsal) [reply source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: Thanks! Not sure why I missed this.

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda (hunk 6 above)
Comment (jakub-oprsal) [reply source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda]: This was intentional — to create the space before the appendix.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda (hunk 8 above)
Comment (jakub-oprsal) [reply source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: In universal algebra, we usually capitalise Abelian for Abelian algebra; groups are a special case of this. But I will go with your suggestion since this might be confusing for some people.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda (hunk 14 above)
Comment (jakub-oprsal) [reply source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: I wanted to do that, but I was unable to write the right `꞉` symbol – stealing it from you worked :)

Comment (tomdjong) [reply source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: Type `\: 4` and after that `\:` will default to that choice.

File: source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda (hunk 16 above)
Comment (jakub-oprsal) [reply source/AlgebraicStructuresForcingSethood/WeakNearUnanimity.lagda]: I have changed it to `w'` for now. It is a symbol that I am using a lot, so I need a short name.

I would like to keep the symbol `Ωw` for the operation on loops that outputs loops as you did. This is half-step there.

**Comment by jakub-oprsal** [comment]
@tomdjong Thanks for all the suggestions! This version should hopefully resolve all the issues. I'd be happy to talk about how to standardise this better at some later time.

File: source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda (hunk 4 above)
Comment (tomdjong) [reply source/AlgebraicStructuresForcingSethood/SimpleCaseOfWillard.lagda]: Seems like a reasonable name to me.
